US08372842B2
A solution of (E)-tert-butyl 4-(5-cyclopropyl-1-(4-methoxybenzyl)-3-(2-(pyridin-3-yl)vinyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (385 mg, 0.68 mmol) in 25% TFA/CH2Cl2 was stirred at room temperature. Then the mixture was concentrated in vacuo, and the residue was evaporated from toluene (3×10 mL). TFA (10 mL) was added to the residue, and the mixture was stirred at 60° C. for 4 hours. The solvent was then removed in vacuo, and the residue was evaporated from toluene (20 mL). The residue was dissolved in CH2Cl2 (2 mL) and 2M HCl in Et2O was added. The mixture was stirred at room temperature for 30 minutes. The resulting solid was filtered and washed with additional Et2O and dried to provide (E)-5-cyclopropyl-4-(piperazin-1-yl)-3-(2-(pyridin-3-yl)vinyl)-1H-pyrazolo[3,4-b]pyridine hydrochloride salt (210 mg, 74% yield) as a solid. 1H NMR (400 MHz, d6-DMSO) δ 9.76 (br s, 2H), 9.24 (s, 1H), 9.00 (d, 1H), 8.80 (d, 1H), 8.30 (s, 1H), 8.07 (dd, 1H), 7.93 (d, 1H), 7.59 (d, 1H), 3.78-3.72 (m, 4H), 3.33-3.26 (m, 4H), 2.17-2.10 (m, 1H), 1.06-1.02 (m, 2H), 0.83-0.79 (m, 2H); LCMS (APCI+) m/z 347.1 (M+H)+, Retention time=2.09 minutes.

reactant | (E)-tert-butyl 4-(5-cyclopropyl-1-(4-methoxybenzyl)-3-(2-(pyridin-3-yl)vinyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.68 mmol, 385 mg | C1(CC1)C=1C(=C2C(=NC1)N(N=C2\C=C\C=2C=NC=CC2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C33H38N6O3
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (E)-5-cyclopropyl-4-(piperazin-1-yl)-3-(2-(pyridin-3-yl)vinyl)-1H-pyrazolo[3,4-b]pyridine hydrochloride salt | 210 mg, 74% yield | Cl.C1(CC1)C=1C(=C2C(=NC1)NN=C2\C=C\C=2C=NC=CC2)N2CCNCC2 | InChI=1S/C20H22N6.ClH/c1-2-14(12-22-7-1)3-6-17-18-19(26-10-8-21-9-11-26)16(15-4-5-15)13-23-20(18)25-24-17;/h1-3,6-7,12-13,15,21H,4-5,8-11H2,(H,23,24,25);1H/b6-3+;
